US04297346
5.6 g (0.02 mole) of pGlu-His-OMe are dissolved in 200 cc of MeOH and treated while cold for 2 hours with 4.8 g (6×0.02 mole) of NaOH. The solution which is obtained is acidified to pH 4.5 with 6×0.02 mole of HCl. After being evaporated to dryness under vacuum at 50° C., the pGlu-His-OH is obtained, and this can be used without any additional purification. White solid; yield is quantitative.

reactant | pGlu-His-OMe | 0.02 mole, 5.6 g | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)OC | C12H16N4O4
reactant | NaOH | 0.02 mole, 4.8 g | [OH-].[Na+]
reactant | HCl | 0.02 mole | Cl | ClH
solvent | MeOH | 200 cc | CO | CH4O
product | pGlu-His-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C11H14N4O4
